US03979513
A mixture of 9,9-di(2-methanesulphonyloxyethyl)-4-methoxy-9,10-dihydroanthracene (1.5 g.) and allylamine (7.0 g.) in n-propanol (30 ml.) is heated under reflux for 18 hours. The solvent is evaporated and 2N sodium hydroxide (20 ml.) is added; the suspension is extracted with ether and the ether layer washed with water, and extracted with 2N hydrochloric acid. The acid extract is washed with ether, basified with 15N ammonia solution, and the precipitated product is extracted into ether, the ether is washed with water and with brine, dried (MgSO4) and evaporated to give 1'-allyl-4-methoxy-9,10-dihydroanthracene-9-spiro-4'-piperidine as an oil.

reactant | 9,9-di(2-methanesulphonyloxyethyl)-4-methoxy-9,10-dihydroanthracene | 1.5 g | CS(=O)(=O)OCCC1(C2=CC=CC=C2CC=2C(=CC=CC12)OC)CCOS(=O)(=O)C | C21H26O7S2
reactant | allylamine | 7.0 g | C(C=C)N | C3H7N
solvent | n-propanol | 30 ml | C(CC)O | C3H8O
product | 1'-allyl-4-methoxy-9,10-dihydroanthracene-9-spiro-4'-piperidine | C(C=C)N1CCC2(CC1)C1=CC=CC=C1CC=1C(=CC=CC12)OC | C22H25NO
